US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-piperidin-1-ylquinoline-4- carboxamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1, 1′-biphenyl-4-carboxamide and 2-(piperidin-1-yl)quinoline-4-carboxylic acid using method B. NMR; δH CDCl3 7.90,(1H, d), 7.83-7.78,(4H, m), 7.67,(1H, b), 7.52,(1H, t), 7.42,(2H, d), 7.33,(1H, d), 7.26, (1H, m), 7.21,(1H, t), 7.01,(1H, s), 6.30,(1H, t), 3.63,(4H, s), 3.31,(2H, m), 2.27,(3H, s), 1.62,(6H, m), 1.07,(1H, m), 0.57,(2H, m), 0.28,(2H, m). LCMS: retention time 3.32 min, MH+519.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1, 1′-biphenyl-4-carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | 2-(piperidin-1-yl)quinoline-4-carboxylic acid | N1(CCCCC1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C15H16N2O2
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-piperidin-1-ylquinoline-4- carboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1=CC(=NC2=CC=CC=C12)N1CCCCC1 | C33H34N4O2
